US06831193B2
N-[3-(4-pyridinyloxy)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
3-(4-Pyridinyloxy)benzaldehyde (0.85 g, 4.27 mmol), prepared according to J. Chem. Soc. Perkin Trans 2 (1987) 1867, and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine (0.63 g, 4.29 mmol) were combined in ethanol (10 mL), briefly heated and the solvent removed under reduced pressure. This process was repeated twice more. The residual oil was dissolved in ethanol (5 mL) and stirred with sodium borohydride (0.16 g, 4.23 mmol) overnight at room temperature. The reaction mixture was quenched with water (10 mL) and diluted with diethyl ether (50 mL). The diethyl ether was washed with saturated NaHCO3 solution (3×10 mL), brine (10 mL), dried over Na2SO4, filtered and the filtrate concentrated under reduced pressure to provide the title compound as a thick orange liquid (1.19 g, 85% yield).

reactant | 3-(4-Pyridinyloxy)benzaldehyde | 4.27 mmol, 0.85 g | N1=CC=C(C=C1)OC=1C=C(C=O)C=CC1 | C12H9NO2
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | 4.29 mmol, 0.63 g | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | sodium borohydride | 4.23 mmol, 0.16 g | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-[3-(4-pyridinyloxy)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | 1.19 g, 85% yield | N1=CC=C(C=C1)OC=1C=C(CN[C@H]2CCCC3=CC=CC=C23)C=CC1 | C22H22N2O
